US07498337B2
5-(2,6-difluorophenyl)-1H-pyrrole-3-carbaldehyde
To a solution (26 mL) of [5-(2,6-difluorophenyl)-1H-pyrrol-3-yl]methanol (2.56 g) in acetonitrile were added tetra-n-propylammonium perruthenate (430 mg), N-methylmorpholine N-oxide (2.15 g) and molecular sieves 4A powder (5 g), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with ethyl acetate (60 mL) and filtered through celite. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=1:1) to give the title compound as pale-red crystals (yield 1.94 g, 77%).

reactant | [5-(2,6-difluorophenyl)-1H-pyrrol-3-yl]methanol | 26 mL, 2.56 g | FC1=C(C(=CC=C1)F)C1=CC(=CN1)CO | C11H9F2NO
reactant | N-methylmorpholine N-oxide | 2.15 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetra-n-propylammonium perruthenate | 430 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 5-(2,6-difluorophenyl)-1H-pyrrole-3-carbaldehyde | yield 1.94 g, 77% | FC1=C(C(=CC=C1)F)C1=CC(=CN1)C=O | C11H7F2NO
